US06958325B2
Synthesis of Lauric Acid N-hydroxy Succinimide (C12-Linear, 8)
It was prepared exactly in a similar way as in the preparation of oleic acid N-hydroxy succinimide. In brief, 1.33 gr. of N-hydroxy succinimide (11.56 mmole, 1.5 eq.) and DIEA (1.35 ml) were dissolved in 50.0 ml of anhydrous THF and gently stirred at 0° C. under nitrogen atmosphere. Then, Lauroyl chloride (1.8 ml, 99% Sigma, 7.8 mmole, 1.0 eq.) dissolved in 50 ml of anhydrous THF was added dropwise during 1 h. The mixture was gently stirred for 2 h at 0° C. and over-night at room temperature. The resulting precipitate were discarded by filtration and the filtrate was evaporated under reduced pressure, redissolved in small amount of DCM and purified over silica-gel column using DCM as eluent. Fractions containing the product were combined and solvent was removed under reduced pressure. The resulting white solid was dried in vacuum over NaOH-pellets.

reactant | oleic acid N-hydroxy succinimide | ON1C(CCC1=O)=O.C(CCCCCCC\C=C/CCCCCCCC)(=O)O
reactant | N-hydroxy succinimide | 11.56 mmole, 1.5 eq. | ON1C(CCC1=O)=O | C4H5NO3
reactant | DIEA | 1.35 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Lauroyl chloride | 7.8 mmole, 1.8 ml, 1.0 eq. | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
solvent | THF | 50.0 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Lauric Acid N-hydroxy Succinimide | ON1C(CCC1=O)=O.C(CCCCCCCCCCC)(=O)O | InChI=1S/C12H24O2.C4H5NO3/c1-2-3-4-5-6-7-8-9-10-11-12(13)14;6-3-1-2-4(7)5(3)8/h2-11H2,1H3,(H,13,14);8H,1-2H2
